US09145415B2
To a solution of 3,3,3-trifluoro-2-((3-nitrophenyl)amino)propan-1-ol (C14, 171 mg), phthalimide (201 mg) and triphenylphosphine (305 mg) in tetrahydrofuran (7 mL), a 40% solution of diethyl azodicarboxylate in toluene (526 μL) was added under ice cooling, and the mixture was stirred at the same temperature for 40 minutes. To the reaction mixture, water and ethyl acetate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 100 to 70% hexane in ethyl acetate) to obtain 2-(3,3,3-trifluoro-2-((3-nitrophenyl)amino)propyl)isoindoline-1,3-dione (C15, 209 mg).

reactant | 3,3,3-trifluoro-2-((3-nitrophenyl)amino)propan-1-ol | 171 mg | FC(C(CO)NC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C9H9F3N2O3
reactant | phthalimide | 201 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 305 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | toluene | 526 μL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(3,3,3-trifluoro-2-((3-nitrophenyl)amino)propyl)isoindoline-1,3-dione | 209 mg | FC(C(CN1C(C2=CC=CC=C2C1=O)=O)NC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C17H12F3N3O4
